### PR TITLE
[Merged by Bors] - feat: Add `norm_one_add_smul`.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 1]
```diff
@@ -194,6 +195,63 @@ theorem det_eq_sign_charpoly_coeff (M : Matrix n n R) :
...
+        simp only [one_apply_ne' hi, eval_zero, mul_zero, zero_add, zero_mul, add_zero]
+        rw [det_eq_zero_of_column_eq_zero 0, eval_zero, mul_zero]
+        intro j
+        rw [submatrix_apply, Fin.succAbove_below, one_apply_ne]
+        · exact (bne_iff_ne (Fin.succ j) (Fin.castSucc 0)).mp rfl
+        · rw [Fin.castSucc_zero]; exact lt_of_le_of_ne (Fin.zero_le _) hi.symm
+    · exact fun H ↦ (H <| Finset.mem_univ _).elim
+
+lemma derivative_det_one_add_X_smul (M : Matrix n n R) :
+    (derivative <| det (1 + (X : R[X]) • M.map C)).eval 0 = trace M := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean:231]: This feels like it might be better stated as
```suggestion
    (det (1 + (X : R[X]) • M.map C).coeff 1 = trace M := by
```

**Review by riccardobrasca — COMMENTED** [review]
Do you plan to add more result to the file `NormTrace`? Otherwise we can probably find another place to put the lemma.

bors d+

**Comment by erdOne** [comment]
I'll keep it as is for now.
bors merge
